US06936632B2
c) 2-[1-(4-Chlorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizin-3-yl]acetic acid
Oxalyl dichloride (5.6 g, 0.044 mol) is added dropwise at 0-10° C. to an ice-cold solution of 7-(4-chlorophenyl)-6-phenyl-2,3-dihydro-1H-pyrrolizine (9.2 g, 0.031 mol) in THF (100 ml). After addition is complete, the mixture is stirred for 15 min and the excess of acid chloride is then cautiously decomposed (gas and foam formation!) with ice water (12 ml). Hydrazine (18 ml, 80%, about 0.3 mol) is added dropwise, the mixture is stirred for 30 min and diethylene glycol (36 ml) is poured in. THF and water are distilled off under atmospheric pressure at a bath temperature of 100-110° C. (foam formation at 105° C.!). The mixture is cooled to 60° C. and potassium hydroxide (15.7 g of KOH 85%, 0.238 mol) is added in portions and the temperature in the bottom is increased to 140° C. (foam formation!), and water, hydrazine and residual solvents are distilled off. This temperature is maintained in the bottom for 1 h and the mixture is allowed to cool. The mixture cooled to 60° C. is treated with water (200 ml) and acidified to pH 2-3 with conc. HCl in an ice bath (temp. <10° C.). The depositing carboxylic acid is extracted with ethyl acetate (300 ml), and the EA extract is washed with water until neutral, dried using Na2SO4 sicc. and concentrated in the presence of heat (45° C.) until the start of crystallization and placed in the cold. The crystal mass deposited at 5° C. is filtered off with suction and washed with cold ethyl acetate and dried.

reactant | Oxalyl dichloride | 0.044 mol, 5.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-(4-chlorophenyl)-6-phenyl-2,3-dihydro-1H-pyrrolizine | 0.031 mol, 9.2 g | ClC1=CC=C(C=C1)C=1C(=CN2CCCC12)C1=CC=CC=C1 | C19H16ClN
reactant | Hydrazine | about 0.3 mol, 18 ml | NN | H4N2
reactant | potassium hydroxide | 0.238 mol, 15.7 g | [OH-].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | diethylene glycol | 36 ml | C(COCCO)O | C4H10O3
product | 2-[1-(4-Chlorophenyl)-2-phenyl-6,7-dihydro-5H-pyrrolizin-3-yl]acetic acid | ClC1=CC=C(C=C1)C=1C(=C(N2CCCC12)CC(=O)O)C1=CC=CC=C1 | C21H18ClNO2
